US04621084
5-(8-Benzyloxy-3-methylimidazo[1,2-a]pyridin-2-yl)-3-methyl-2-benzoxazolinone (2.1 g) was prepared in substantially the same manner as that of Example 30 from 5-(2-bromopropionyl)-3-methyl-2-benzoxazolinone (2.84 g) and 2-amino-3-benzyloxypyridine (4.8 g). mp. 210° C.

reactant | 5-(2-bromopropionyl)-3-methyl-2-benzoxazolinone | 2.84 g | BrC(C(=O)C=1C=CC2=C(N(C(O2)=O)C)C1)C | C11H10BrNO3
reactant | 2-amino-3-benzyloxypyridine | 4.8 g | NC1=NC=CC=C1OCC1=CC=CC=C1 | C12H12N2O
product | 5-(8-Benzyloxy-3-methylimidazo[1,2-a]pyridin-2-yl)-3-methyl-2-benzoxazolinone | 2.1 g | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C(=C(N2)C=2C=CC1=C(N(C(O1)=O)C)C2)C | C23H19N3O3
